US07351719B2
Z28b) N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide
A solution of 3.66 mL (41.56 mmol) 1,2-dibromoethane in 5 mL DMF was slowly added at RT to a suspension of 1.580 g (4.156 mmol) N-(3-chloro-4-hydroxy-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide and 2.880 g (8.310 mmol) potassium carbonate in 20 mL DMF and the mixture was stirred for 2.5 h. The reaction mixture was evaporated down i. vac. and diluted with EtOAc . The org. phase was washed with water and saturated aqueous NaCl, dried over magnesium sulphate and evaporated down i. vac. Column chromatography (silica gel, petroleum ether→dichloromethane) yielded the product.

reactant | 1,2-dibromoethane | 41.56 mmol, 3.66 mL | BrCCBr | C2H4Br2
reactant | N-(3-chloro-4-hydroxy-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | 4.156 mmol, 1.580 g | ClC=1C=C(C=CC1O)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C15H10Cl2F3NO3
reactant | potassium carbonate | 8.310 mmol, 2.880 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | BrCCOC1=C(C=C(C=C1)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)Cl | C17H13BrCl2F3NO3
